US05840751
5-[3,6-Dihydro-4-hydroxy-5-(2-isopropylphenylthio)-6-oxo-2-phenyl-2H-pyran-2-yl]pentanoic acid (+/-)
The title compound was prepared as described in General Method 6 from 1.1 mmol of 5-[5-bromo-3,6-dihydro-4-hydroxy-6-oxo-2-phenyl-2H-pyran-2-yl]pentanoic acid (prepared in example DDD), 1.3 mmol of 2-isopropylbenzenethiol, and 1.3 mmol of piperidine in 20 mL of dichloromethane. The crude product was chromatographed on silica gel, eluting first with 5% methanol in chloroform and then with 9:1:0.5 chloroform:methanol:acetic acid, to give the title compound, (m.p. 145°-146° C.). 1H NMR (DMSO-d6) δ 1.07-1.19 (t plus m, 7 H), 1.25 (m, 1 H), 1.43 (m, 2 H), 1.91 (m, 2 H), 2.15 (t, 2 H), 3.19 (m, 1 H), 3.41 (2 H+H2O), 5.81 (d, 1 H), 6.54 (t, 1 H), 6.93 (t, 1 H), 7.12 (d, 1 H), 7.29-7.44 (m, 5 H).

reactant | 5-[5-bromo-3,6-dihydro-4-hydroxy-6-oxo-2-phenyl-2H-pyran-2-yl]pentanoic acid | 1.1 mmol | BrC1=C(CC(OC1=O)(C1=CC=CC=C1)CCCCC(=O)O)O | C16H17BrO5
reactant | 2-isopropylbenzenethiol | 1.3 mmol | C(C)(C)C1=C(C=CC=C1)S | C9H12S
reactant | piperidine | 1.3 mmol | N1CCCCC1 | C5H11N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-[3,6-Dihydro-4-hydroxy-5-(2-isopropylphenylthio)-6-oxo-2-phenyl-2H-pyran-2-yl]pentanoic acid | OC=1CC(OC(C1SC1=C(C=CC=C1)C(C)C)=O)(C1=CC=CC=C1)CCCCC(=O)O | C25H28O5S
